Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel depressed"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ note from ___

"The patient is a ___ single female, freshman at ___ 
___,
hx of MDD, PTSD, borderline personality traits, no hx of 
previous
psychiatric hospitalization, no hx of SAs, + hx of SIB - cutting
self, recently prescribed Zoloft 50 mg by her pediatrician, who
was sent on ___ from ___ Counseling for SI. One of
the students from pt's school noticed her post in social media 
in
which pt was expressing desire to end her life.
Pt stated she has been feeling depressed "on and off", but felt
worse recently. Recent stressors - pt started a new school and
found it difficult to adopt to the new situation. She likes
school, but feels "alone". She tried to become friends with her
roommate however the roommate was not interested and made
publicly comments about this, pt heard her comments, felt 
awkward
and rejected. There is pressure at school, pt was already 
worried
about one of her courses. Once she slept late for her courses 
and
"felt panicky" because  she was told she could only miss 2 days
in one semester. She was so anxious she was not able to attend
her classes that day. Her mother lives in ___, pt lives in a
dorm in ___ and feels homesick. She called her mother asking
to come home for the weekend, however mother said that she needs
to get more independent and made plans to take her home next
weekend. All this caused exacerbation of sadness and increased
difficulty coping. Pt thought of ending her life and considered
jumping in front of the car. She didn't go ahead with the plan
because she thought of her mother and also she dint want to hurt
the driver who would run over. She posted her thoughts in social
media, and decided to leave "all I have" to her long distance
friend she met in high school. He communicated with her trough
texting but didn't inform parents or school. She "was shocked"
that someone found out about her plans. OK appetite, energy,
decreased sleep. 
Tearful during the interview. Severe sexual trauma hx - pt was
raped by one of pupils from her school when she was ___. She has
more nightmares recently related to that rape. 
Her relationship with mother is good, however she feels
disappointed that her mother doesn't want to tell her who her
father is. She never met her father. Since the mother "keeps her
secret", pt decided to have her own secrets and her mother
doesn't know that pt has been cutting for years., Examined the
cuts on pt's thighs - longitudinal cuts, old and new, no
infection. Pt stated that she cuts with a razor "when I feel
"numb" to feel something", or "I cut when I am overwhelmed to
calm it down". 
Denied hx of manic or psychotic Sx. Denied intentions of hurting
self in the unit. Gave permission to speak with mother."
 
Past Medical History:
Per Dr. ___ note from ___
========================
PAST PSYCHIATRIC HISTORY
========================
- Past diagnoses: Diagnosed with depressed and anxiety as a
sophomore in high school. Later diagnosed with PTSD during her
___ year of high school secondary to sexual abuse. 
- Hospitalizations: No prior psychiatric hospitalizations
- Psychiatrist: States she had seen a psychiatrist during high
school, but unable to provide the name at this time.
- Therapist: Was seeing ___ back home in
___, ___. 
- Medication and ECT trials: Currently on sertraline. 
- ___ attempts: Denies any history of SA. Has
been engaging in SIB by cutting since sophomore year of high
school. States she uses razor blades to cut her thighs. Began
cutting secondary to ongoing sexual abuse during sophomore year
to "release her pain". Reports cutting once every ___ months,
although has cut 4 times over past two weeks. 
- Trauma: Shares that she was the victim of ongoing sexual abuse
by a "friend" during her sophomore year of high school for
approximately ___ months. No legal action was taken as patient
states she came forward to her school about it a year later and
they felt that there was insufficient proof. 
- Access to weapons: Denies
 
Social History:
Per Dr. ___ note from ___

Born in ___, ___ and moved to ___, 
___
at the age of ___. Is an only child, grew up in ___
household with her mother. States that she has never met her
father and her mother is not forthcoming with details about him.
States she had a "okay" childhood but unable to provide
additional details. Currently a freshman at ___ ___ studying
___ with the hopes to pursue a career as a ___. Enjoys reading and ___ for fun. Lives on campus in a
dorm with one other female roommate. Unemployed, mom is 
providing
her with money every month until she can find a job. 

=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: Denies
- Tobacco: Denies
- Cannabis: Denies
- Illicits: Denies

================
FORENSIC HISTORY
================
Denies history of arrests, convictions, incarceration, or active
warrants. 
 
Family History:
==========================
FAMILY PSYCHIATRIC HISTORY
==========================
Denies any family history of mental illness, suicide attempts, 
or
substance use. 
 
Physical Exam:
ON ADMISSION:
VITALS:
Temp: 98.7 PO BP: 104/63 HR: 81 RR: 16 O2 sat: 100% 

GENERAL 
- HEENT: Normocephalic, atraumatic. MMM, oropharynx clear
- Cardiovascular: RRR. Normal S1/S2. No murmurs/rubs/gallops. 
- Pulmonary: CTAB. No wheezes/rales/rhonchi 
- Abdominal: (+) BS. ___. 
- Extremities: warm and ___, no cyanosis or edema. +2
pedal pulses

NEURO: 
- Cranial Nerves: 
     - II: PERRL 4 to 3 mm, brisk
     - III, IV, VI: EOMI without nystagmus 
     - V: facial sensation intact to light touch in all
distributions 
     - VII: no facial droop, facial musculature symmetric 
     - VIII: hearing intact to finger rub bilaterally 
     - IX, X: palate elevates symmetrically 
     - XI: ___ strength in trapezii and SCM bilaterally 
     - XII: tongue protrudes in midline 
- Motor: Normal bulk and tone. No abnormal movement, no tremor.
___ strength throughout. 
- DTRs: 2+ throughout. Plantar response flexor bilaterally
- Coordination: normal on finger to nose test, no intention
tremor noted

- Wakefulness/alertness: awake and alert
- Orientation: oriented to person, time, place, situation
- Attention: MOYb with 0 errors
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - ___ grossly intact
- Fund of knowledge: consistent with education; intact to last 3
presidents
- Calculations: $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = "Don't judge 
something
at face value"
     - apple/orange = "both fruit" 
- Language: fluent ___ speaker, no paraphasic errors,
appropriate to conversation

Appearance: fair grooming
Facial expression: anxious, tearful
Build: WNL
Behavior: engaging, pleasant, cooperative, forthcoming
Psychomotor: no abnormal involuntary movements
Speech: normal rate, volume and tone
Mood/affect: "depressed", sad, anxious, tearful
Thought process/content: reality oriented, goal directed, +SI
with  a plan to jump in front of the car, denies HI, denies
AH/VH/paranoid delusions
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: grossly intact
Insight: poor
Judgment: poor

ON DISCHARGE:
Temp: 97.8 BP: 110/74 HR: 95 RR: 18 O2 sat: 97% 
Mental Status Exam:
Appearance: well groomed, taking showers
Facial expression: friendly
build: overweight
Behavior: engaging, cooperative, pleasant
Eye contact: direct
psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, and tone
Mood/affect: "OK", stable, brighter, hopeful, no irritability
Thought Process/content: reality oriented, goal directed, denies 

SI/HI, denies AH/VH/paranoid delusions, 
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: grossly intact
Insight: fair
Judgment: fair

 
Pertinent Results:
BP 113/74
BMI 12.9

___ 12:14PM   ___ 
___
___ 12:14PM   PLT ___. LEGAL & SAFETY: 

On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
 

2. PSYCHIATRIC:

#)Major depressive disorder, recurrent, severe, no psychotic 
features
She was admitted for an inpatient psychiatric hospitalization 
for diagnostic clarification, medication management, 
psychotherapeutic intervention, collaboration with outpatient 
providers, and aftercare coordination. She was encouraged to 
participate in individual, group, milieu and occupational 
therapy. In terms of medications, her home sertraline regimen 
was increased from 50 mg daily to 75 mg daily, which she 
tolerated without significant side effects. In addition, she had 
hydroxyzine 25 mg PRN anxiety available though she did not 
leverage it. As such, the only medication change was the 
increase in sertraline. Her sleep pattern normalized and she no 
longer was experiencing nightmares. Mood - became brighter, 
initially visible ___ in periphery drawing but later more 
socializing with selected peers. Cont to deny SI. Compliant with 
her medications at all times and tolerated them well. On the day 
of discharge, patient was pleasant, cooperative, engaged in her 
treatment, and denied intentions of hurting herself.

3. SUBSTANCE USE DISORDERS:
- Denied EtOH, marijuana, tobacco, or other illicit substances

4. MEDICAL
- Denied significant medical ___

5. PSYCHOSOCIAL

#) GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Initially, 
the patient often did not attend these groups but later would 
attend some with some encouragement. In addition, she was often 
found to be social with select peers on the unit or engaging in 
arts and crafts.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Family meeting on ___ with patient, her mother and her 
grandmother, met with treatment team. Patient's treatment course 
was discussed and patient and mother divulged personal 
information they had been withholding from each other. Patient 
learned new information about her biological father and patient 
revealed the extent of the sexual trauma she experienced in high 
school. Also team met with mother upon discharge, gave full 
clinical update, discussed change in medication and plans for 
aftercare. 
 

#) INTERVENTIONS

- Medications: sertraline
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: college ___ interview, 
therapy, psychiatry, PCP
- ___ (e.g. encouraged DBT skills, ect): 
coping skills groups
- Family meeting held ___

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Zoloft such as nausea, diarrhea, restlessness, and 
decreased libido and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to cont taking 
the medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
endorsing SI with a specific plan to jump into traffic.  Her 
static factors noted at that time include history of chronic 
mental illness, history of sexual trauma, history of SIB 
(cutting). 
The modifiable risk factors were also addressed at that time.  
Patient was provided resources to establish contact with an 
outpatient mental health providers that are more accessible to 
her while attending college in ___. In addition, a family 
meeting was helping in improving the relationship between the 
patient and her mother. Her sertraline was adjusted to better 
manage her ___ symptoms that contributed to her SI.
Finally, the patient is being discharged with many protective 
risk factors, including, female gender, ___, no 
prior SA, lack of current SI or urge to engage in SIB, 
___, no access to firearms, medication compliance, and 
no history of substance use disorder.
Overall, the patient is not at an acutely elevated risk of 
___ nor danger to others due to acutely decompensated 
psychiatric illness.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  Sertraline 75 mg PO DAILY 
RX *sertraline 50 mg 1.5 tablet(s) by mouth once a day Disp #*21 
Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Major depressive disorder, recurrent, severe, no psychotic 
features
- ___ stress disorder
- Borderline personality traits

 
Discharge Condition:
Mental Status Exam:
Appearance: well groomed, taking showers
Facial expression: friendly
Build: overweight
Behavior: engaging, cooperative, pleasant
Eye contact: direct
Psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, and tone
Mood/affect: "OK", stable, brighter, hopeful, no irritability
Thought Process/content: reality oriented, goal directed, denies 

SI/HI, denies AH/VH/paranoid delusions, 
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: grossly intact
Insight: fair
Judgment: fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___